US05968985
A mixture of 6-bromo-2-hydroxybenzaldehyde (4.48 g), ethyl chloroacetate (3.55 g) and powdered potassium carbonate (6.16 g) in N,N-dimethylformamide (56 ml) was stirred at 120° C. for one hour. Insoluble materials were filtered off and the solvent was removed under reduced pressure. Ethyl acetate and water were added to the residue, and the mixture was acidified by hydrochloric acid solution. The layers were separated and the organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with a mixture of hexane and toluene (1:1) to afford 4-bromo-2-ethoxycarbonylbenzofuran (4.20 g).

reactant | 6-bromo-2-hydroxybenzaldehyde | 4.48 g | BrC1=CC=CC(=C1C=O)O | C7H5BrO2
reactant | ethyl chloroacetate | 3.55 g | ClCC(=O)OCC | C4H7ClO2
reactant | potassium carbonate | 6.16 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 56 ml | CN(C=O)C | C3H7NO
product | 4-bromo-2-ethoxycarbonylbenzofuran | 4.20 g | BrC1=CC=CC2=C1C=C(O2)C(=O)OCC | C11H9BrO3
